US05942509
To a stirred solution of the dichloro-(2-methylphenylthio)-1,2,4-triazine formed in the reaction above (0.35 g) in dry acetonitrile (10 ml) was added dry potassium carbonate (0.18 g), followed by a solution of (E)-methyl 2-(2-hydroxyphenyl)-3-methoxypropenoate (0.27 g) in dry acetonitrile (2 ml), in one portion, at room temperature. A catalytic amount of 18-crown-6 and dry caesium fluoride (0.20 g) were then added. After stirring at room temperature for 11.5 hours, the mixture was diluted with acetonitrile (25 ml) and filtered through Hyflo Supercel filter aid. The filtrate was concentrated under reduced pressure and the residue was chromatographed twice using first ether-n-hexane (1:1) and then n-hexane-dichloromethane-acetonitrile (16:4:1) as eluent to afford (E)-methyl 2-[2-(6-chloro-3-[2-methylphenylthio]-1,2,4-triazin-5-yloxy)-phenyl]-3-methoxypropenoate as a pale yellow gum (0.16 g, 28%); IR max (nujol mull): 1710, 1630 cm-1 ; 1H NMR δ2.27(3H,s), 3.64(3H,s), 3.75(3H,s), 6.90-6.97(1H,m), 7.09-7.39(6H,m), 7.45-7.53(1H,m), 7.49(1H,s) ppm.

reactant | dichloro-(2-methylphenylthio)-1,2,4-triazine | ClC1=C(N=C(N=N1)SC1=C(C=CC=C1)C)Cl | C10H7Cl2N3S
reactant | potassium carbonate | 0.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-methyl 2-(2-hydroxyphenyl)-3-methoxypropenoate | 0.27 g | OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C11H12O4
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | caesium fluoride | 0.20 g | [F-].[Cs+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (E)-methyl 2-[2-(6-chloro-3-[2-methylphenylthio]-1,2,4-triazin-5-yloxy)-phenyl]-3-methoxypropenoate | 0.16 g, 28% | ClC1=C(N=C(N=N1)SC1=C(C=CC=C1)C)OC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC | C21H18ClN3O4S
